* Top Cell Name: inv
* View Name:     schematic
* Netlisted on:  Aug 31 16:13:37 2025
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: lab
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv gnd in out vdd
*.PININFO in:I vdd:I out:O gnd:B
XM0 out in vdd vdd psvtlp w=5.39 l=0.06 nfing=7 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM1 out in gnd gnd nsvtlp w=2.73 l=0.06 nfing=7 sense=0 ngcon=1 m=1 
+ accurateFlow=0
.ENDS

